US06727264B1
2-METHYL-N-(3-{1-[2-(7-METHYL-2-PHENYL-1H-INDOL-3-YL)ETHYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure E and Scheme M using 2-methyl-N-{3-[1-(4-oxo-4-phenylbutyl)-4-piperidinyl]phenyl}propanamide and 1-(2-methylphenyl)hydrazine hydrochloride: ESMS m/e: 480.2 (M+H)+.

reactant | 2-methyl-N-{3-[1-(4-oxo-4-phenylbutyl)-4-piperidinyl]phenyl}propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCC(C1=CC=CC=C1)=O)C | C25H32N2O2
reactant | 1-(2-methylphenyl)hydrazine hydrochloride | Cl.CC1=C(C=CC=C1)NN
product | 2-METHYL-N-(3-{1-[2-(7-METHYL-2-PHENYL-1H-INDOL-3-YL)ETHYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCC1=C(NC2=C(C=CC=C12)C)C1=CC=CC=C1)C | C32H37N3O
